US09303007B2
Pd(OAc)2 (62.9 mg, 0.280 mmol) was added to a solution of 4-acetylphenylboronic acid (689 mg, 4.20 mmol), 1-(6-bromoquinolin-2-yl)ethanone (700 mg, 2.8 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (230 mg, 0.560 mmol) and K2CO3 (1.16 g, 8.40 mmol) in dioxane (10 mL) and water (2.500 mL) and the reaction mixture was refluxed at 110° C. for 5 h. The reaction mixture was cooled to rt and partitioned between sat.aq NH4Cl and EtOAc. The organic layer was washed with NaHCO3 and brine and then dried (MgSO4), filtered, concentrated and purified by flash silica gel chromatography (loading solvent: DCM, eluted with 0˜20% EtOAc/hexanes) to yield 1-(6-(4-acetylphenyl)quinolin-2-yl)ethanone (781 mg) as white solid. LC-MS retention time 3.776 min; m/z 290.29 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 8.35 (d, J=8.3 Hz, 1H), 8.34 (d, J=8.3 Hz, 1H), 8.19 (d, J=8.5 Hz, 1H), 8.12 (d, J=8.3 Hz, 1H), 8.08-8.16 (m, 3H), 7.85 (d, J=8.3 Hz, 1H), 7.82-7.89 (m, 1H), 2.91 (s, 3H), 2.69 (s, 3H).

reactant | 4-acetylphenylboronic acid | 4.20 mmol, 689 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | 1-(6-bromoquinolin-2-yl)ethanone | 2.8 mmol, 700 mg | BrC=1C=C2C=CC(=NC2=CC1)C(C)=O | C11H8BrNO
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.560 mmol, 230 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K2CO3 | 8.40 mmol, 1.16 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.500 mL | O | H2O
catalyst | Pd(OAc)2 | 0.280 mmol, 62.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(6-(4-acetylphenyl)quinolin-2-yl)ethanone | 781 mg | C(C)(=O)C1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(C)=O | C19H15NO2
